US08084448B2
C. Amino-(2-iodophenyl)-acetic Acid Methyl Ester
To a solution of azido-(2-iodophenyl)-acetic acid methyl ester in THF (100 mL) is added triphenylphosphine (28.5 g, 109 mmol) in portions. The mixture is stirred at RT for 2 h then water (4 mL) is added and is heated to reflux. The solvent is removed under reduced pressure and ether (50 mL) is added followed by 2N HCl until acidic. The aqueous phase is washed with methylene chloride then is concentrated and basified with NaOH/ice until pH 12. The mixture is extracted with methylene chloride (3×200 mL) and the combined organic phases are dried over sodium sulfate. The solvent is removed under reduced pressure to give the title compound.

reactant | azido-(2-iodophenyl)-acetic acid methyl ester | COC(C(C1=C(C=CC=C1)I)N=[N+]=[N-])=O | C9H8IN3O2
reactant | triphenylphosphine | 109 mmol, 28.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 4 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Amino-(2-iodophenyl)-acetic Acid Methyl Ester | COC(C(C1=C(C=CC=C1)I)N)=O | C9H10INO2
